US07375087B2
3-(β-D-Glucopyranosyloxy)-4-[(4-{(1E)-2-[2-hydroxy-1,1-bis(hydroxymethyl)-ethylcarbamoyl]vinyl}phenyl)methyl]-5-isopropyl-1H-pyrazole
The title compound was prepared in a similar manner to that described in Example 26 using tris(hydroxymethyl)aminomethane and 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[(1E)-2-carboxyvinyl]phenyl}methyl)-5-isopropyl-1H-pyrazole instead of ammonium chloride and 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[(1E)-3-carboxyprop-1-enyl]phenyl}methyl)-5-isopropyl-1H-pyrazole, respectively.

reactant | tris(hydroxymethyl)aminomethane | C(C(CO)(CO)N)O | C4H11NO3
reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[(1E)-2-carboxyvinyl]phenyl}methyl)-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)\C=C\C(=O)O)C(C)C | C30H36N2O12
reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[(1E)-3-carboxyprop-1-enyl]phenyl}methyl)-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)\C=C\CC(=O)O)C(C)C | C31H38N2O12
product | 3-(β-D-Glucopyranosyloxy)-4-[(4-{(1E)-2-[2-hydroxy-1,1-bis(hydroxymethyl)-ethylcarbamoyl]vinyl}phenyl)methyl]-5-isopropyl-1H-pyrazole | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=CC=C(C=C1)\C=C\C(NC(CO)(CO)CO)=O)C(C)C | C26H37N3O10
